US05502210
A solution of 0.51 g of an 83:17 mixture of the (1S,2S) and (1S,2R) isomers of 2-(1-benzyl-2,3-dihydroxypropyl)-2,3-dihydro-1H-isoindole-1,3-dione, 0.4 ml of pyridine and 1 ml of ethyl acetate is treated with 0.15 ml of methanesulfonyl chloride and the mixture is stirred at room temperature for 4 hours. The mixture is diluted with ethyl acetate and washed with 2% hydrochloric acid, and the extracts are dried and filtered. The filtrate is evaporated and the residue is purified on silica gel with methylene chloride/isopropanol (100:1). After evaporation and drying there is obtained 0.28 g (43%) of pure methanesulfonic acid (2S,3S)-3-(1,3-dioxo-2,3-dihydro-1H-isoindol-2-yl)-2-hydroxy-4-phenylbutyl ester, NMR (CDCl3): 7.7 (m,4H); 7.1 (m,5H); 4.6 (m,2H); 4.3 (m,2H); 3.55 (d,J=7,1H); 3.3 (m,2H); 3.1 (s,3H).

reactant | 2-(1-benzyl-2,3-dihydroxypropyl)-2,3-dihydro-1H-isoindole-1,3-dione | C(C1=CC=CC=C1)C(C(CO)O)N1C(C2=CC=CC=C2C1=O)=O | C18H17NO4
reactant | pyridine | 0.4 ml | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 0.15 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
product | methanesulfonic acid (2S,3S)-3-(1,3-dioxo-2,3-dihydro-1H-isoindol-2-yl)-2-hydroxy-4-phenylbutyl ester | 0.28 g, 43% | O=C1N(C(C2=CC=CC=C12)=O)[C@H]([C@@H](COS(=O)(=O)C)O)CC1=CC=CC=C1 | C19H19NO6S
